* Z:\mnt\spice-netlists\LTM4677_LTM4650_DC2481A-A_.asc
C1 IN 0 10µ x4
V1 IN 0 12
R1 N001 N002 10K
C2 OUT 0 100µ x5
C3 N018 0 4.7n
R2 N001 N017 10K
I1 OUT 0 PULSE(43 64.5 1.4m 5u 5u .3m .6m)
C4 IN 0 10µ x4
C5 N005 0 4.7µ
M§Q1 N016 N017 0 0 2N7002
R3 N003 N016 200
R4 N019 N020 20K
R5 N020 0 100K
R6 N003 N012 60.4K
R7 N012 0 8.25K
R8 0 N004 80.6K
XU1 N018 N019 N003 0 N019 LT6220
XU2 N020 N015 N003 0 N015 LT6220
XU3 OUT 0 N010 N013 N018 N011 N014 N017 IN NC_01 OUT N011 N014 N002 N002 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 IN N001 N018 OUT NC_10 N006 OUT N010 N013 N003 0 IN NC_11 NC_12 NC_13 N007 MP_14 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=350K PHs_0=90 PHs_1=270 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
XU4 0 N015 N012 0 N012 N015 0 OUT NC_15 NC_16 NC_17 NC_18 N002 OUT NC_19 NC_20 NC_21 0 N009 MP_22 MP_23 MP_24 MP_25 NC_26 N005 IN MP_27 MP_28 MP_29 MP_30 N008 NC_31 0 N016 N004 MP_32 MP_33 N002 LTM4650
C6 OUT 0 100µ x4
C7 OUT 0 470µ x6
C8 OUT 0 100µ x2
C9 OUT 0 100µ x2
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
* Please read the following notes carefully, since the model presents different user interface than the real part does.\n(1) All PMBus communication and memory address related functions and pins are not modeled. \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the simulation is stopped and restarted. This is different from the operation of the part, which will respond to the commanded changes while running. \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time base for all time related parameters.\n(4) The following parameters can be defined, by right-clicking the symbol of LTM4677. Different nomenclature from the datasheet is adopted here. If any value of these parameters are set beyond the scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, 425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. Certain combinations are restricted as in datasheet. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0 for 4.096V (CH0) and 5.5V (CH1); value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0 for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults: 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTM4677 - Dual 18A or Single 36A µModule Regulator with Digital Power System Management\nLTM4650 - Dual 25A or Single 50A DC/DC µModule Regulator\nHigh Current, Parallel µModule Buck Regulators with Power System Management\nInput: 4.5V to 16V     Output: 1V @ 86A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
.lib LTC4.LIB
.lib LTM4650.sub
.lib LTM4677.sub
.backanno
.end
